US08609686B2
2-Amino-4-[4-(2-hydroxyethoxy)phenyl]-6-(phenylsulfanyl)pyridine-3,5-dicarbonitrile
100.0 g (601.8 mmol) of 4-(2-hydroxyethoxy)benzaldehyde were initially charged in 600 ml of absolute ethanol, 40 g (605.5 mmol) of malononitrile and 1 ml (7.22 mmol) of triethylamine were added and the mixture was heated at reflux for 2 h. The heating bath was removed, and 43.5 g (658.2 mmol) of malononitrile, 1.5 ml (10.83 mmol) of triethylamine and 66.3 g (601.8 mmol) of thiophenol were added to the mixture. The mixture was heated at reflux for another 2 h and then stirred at room temperature for 8 h. The reaction solution was cooled to 5° C., and the precipitate formed was filtered off with suction. The precipitate was washed with 500 ml of tert-butyl methyl ether. The residue was taken up in 400 ml of DMF and heated to 70° C. A solution of 141.1 g (257.4 mmol) of ammonium cerium(IV) nitrate in 250 ml of water of a temperature of 50° C. was then added dropwise. During the addition, a further 500 ml of DMF were added. After the addition, the mixture was stirred at RT for 1 h. 1000 ml of water were then added, and the reaction mixture was stirred at RT for 16 h. The resulting precipitate was filtered off with suction and washed with water. The residue was dried under reduced pressure.

reactant | 4-(2-hydroxyethoxy)benzaldehyde | 601.8 mmol, 100.0 g | OCCOC1=CC=C(C=O)C=C1 | C9H10O3
reactant | malononitrile | 605.5 mmol, 40 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 7.22 mmol, 1 ml | C(C)N(CC)CC | C6H15N
reactant | malononitrile | 658.2 mmol, 43.5 g | C(CC#N)#N | C3H2N2
reactant | triethylamine | 10.83 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | thiophenol | 601.8 mmol, 66.3 g | C1(=CC=CC=C1)S | C6H6S
reactant | ammonium cerium(IV) nitrate | 257.4 mmol, 141.1 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
solvent | water | 1000 ml | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-[4-(2-hydroxyethoxy)phenyl]-6-(phenylsulfanyl)pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)SC1=CC=CC=C1 | C21H16N4O2S
